US04115575
25.2 g of methanesulphonic acid chloride are added dropwise over the course of 1 hour to a solution of 40.6 g of 3-chloro-2-(2',3'-dihydroxy-propoxy)-pyridine in 100 ml of pyridine whilst stirring and cooling at 0°-5° C. The reaction mixture is then stirred further for 5 hours at room temperature and is subsequently poured onto 200 ml of ice water. The oil which separates out is isolated as in Example (1b). Crude 3-chloro-2-(3'-methanesulphonyloxy-2'-hydroxy-propoxy)-pyridine is thus obtained and is converted further in the crude state.

reactant | methanesulphonic acid chloride | 25.2 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-chloro-2-(2',3'-dihydroxy-propoxy)-pyridine | 40.6 g | ClC=1C(=NC=CC1)OCC(CO)O | C8H10ClNO3
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 3-chloro-2-(3'-methanesulphonyloxy-2'-hydroxy-propoxy)-pyridine | ClC=1C(=NC=CC1)OCC(COS(=O)(=O)C)O | C9H12ClNO5S
